US05238599
A mixture of 59 g (0.31 mol) of anhydrous SnCl2 and 320 cm3 of diethyl ether was placed on an ice water bath and saturated with hydrogen chloride gas generated by the drop-wise addition of concentrated sulfuric acid to concentrated hydrochloric acid until the SnCl2 assumed a liquid state and the mixture was dried with concentrated sulfuric acid. 31 g (0.16 mol) of 4-bromo-3-fluorobenzonitrile was added to the mixture and the resulting mixture was stirred at room temperature for 1 hour and allowed to stand overnight. 300 cm3 of water was added to the reaction product and the mixture was stirred over a hot water bath at 50° C. The diethyl ether was distilled off. The oily layer was separated out and the aqueous layer was extracted with ether. The two layers were combined, washed with water, and dried overnight with anhydrous Na2SO4. Diethyl ether was distilled off the resulting dried mixture. Diethyl ether was distilled off the distillation residue. The distillation residue was distilled under a vacuum (b.p. 122° C./25 mmHg) to yield 26 g (0.13 mol) of 4-bromo-3-fluorobenzaldehyde.

reactant | SnCl2 | 0.31 mol, 59 g | Cl[Sn]Cl
reactant | hydrogen chloride | Cl | ClH
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 4-bromo-3-fluorobenzonitrile | 0.16 mol, 31 g | BrC1=C(C=C(C#N)C=C1)F | C7H3BrFN
solvent | water | 300 cm3 | O | H2O
solvent | diethyl ether | 320 cm3 | C(C)OCC | C4H10O
product | 4-bromo-3-fluorobenzaldehyde | 0.13 mol, 26 g | BrC1=C(C=C(C=O)C=C1)F | C7H4BrFO
